US06649600B1
Phosphoric acid mono-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]ester
Phosphoric acid dibenzyl ester 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl ester was dissolved in a mixture of 15 ml methanol and 10 ml of THF, Pd/C (10%, 50 mg) was added to the mixture. Hydrogenation was taken place at 50 psi for 8 h. Pd/C was filtered off and solvent was evaporated off. The residue was recrystallized in a mixture of methanol and ethyl acetate to get 190 mg title product (yield 86%). MS (M+1, 441)

reactant | Phosphoric acid dibenzyl ester 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl ester | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)OP(OCC2=CC=CC=C2)(OCC2=CC=CC=C2)=O)=O)CCC | C33H41N4O6P
solvent | methanol | 15 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | Phosphoric acid mono-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]ester | 190 mg, yield 86% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)OP(O)(O)=O)=O)CCC | C19H29N4O6P
